US07829582B2
4-[(R)-3-(2,6-Dichloro-4-trifluoromethanesulfonyloxy-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
Cool a solution of 4-[(R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (Preparation 14) (1.5 g, 3.3 mmol) in Pyridine (15 mL) to 0° C. and treat with trifluoromethanesulfonic anhydride (0.8 mL, 4.9 mmol). Allow the reaction to warm to room temperature. After stirring for 2 hr at room temperature, quench the reaction with 1N HCl and extract with EtOAc. Wash the organic with brine, dry over MgSO4, and filter. Remove the solvent to afford 1.6 g (86%) of desired product. MS (m/e): 597 (M+Na+).

reactant | 4-[(R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 3.3 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@@H](CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O | C21H28Cl2N2O4
reactant | trifluoromethanesulfonic anhydride | 4.9 mmol, 0.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | Pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 4-[(R)-3-(2,6-Dichloro-4-trifluoromethanesulfonyloxy-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.6 g, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@@H](CC1)CC1=C(C=C(C=C1Cl)OS(=O)(=O)C(F)(F)F)Cl)=O | C22H27Cl2F3N2O6S
